US09329186B2
1-(4-Vinylphenyl)-3-(3,5-bis(trifluromethyl)phenyl)-thiourea (3)
To a stirred solution of 4-aminostyrene (3.5 mmol) in dry THF (20 mL) under nitrogen was added 3,5-bis-(trifluoromethyl)phenyl isothiocyanate (3.5 mmol). The solution was refluxed overnight and then the solvent was evaporated under reduced pressure. The resulting solid residue was purified by column chromatography to yield the desired product in 60% yield.

reactant | 4-aminostyrene | 3.5 mmol | NC1=CC=C(C=C)C=C1 | C8H9N
reactant | 3,5-bis-(trifluoromethyl)phenyl isothiocyanate | 3.5 mmol | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=S)(F)F | C9H3F6NS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(4-Vinylphenyl)-3-(3,5-bis(trifluromethyl)phenyl)-thiourea | 60% yield | C(=C)C1=CC=C(C=C1)NC(=S)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C17H12F6N2S
